US06271345B1
Preparation of 2-acetoxy-5-methylbenzoic acid
1 g of 5-methylsalicylic acid (6.58 mmol) and 1.83 ml of tri-ethylamine (2 equivalents) were dissolved in 80 ml of ethyl acetate. At 0° C., 0.94 ml of acetyl chloride (2 equivalents) was added dropwise, and the mixture was then stirred at 23° C. for 1 h. The precipitated salts are [sic] filtered off. 100 ml of 1M HCl were added to the filtrate, which was then stirred overnight. A homogeneous solution formed, and it was adjusted to about pH 4 with saturated NaHCO3 solution. It was then extracted with chloroform, and the organic phase was washed with a little water and dried over MgSO4. The solvent was substantially removed, and the crude product was recrystallized from hexane/ethyl acetate.

reactant | 5-methylsalicylic acid | 6.58 mmol, 1 g | CC1=CC=C(C(C(=O)O)=C1)O | C8H8O3
reactant | tri-ethylamine | 1.83 ml, 2 equivalents | C(C)N(CC)CC | C6H15N
reactant | acetyl chloride | 0.94 ml, 2 equivalents | C(C)(=O)Cl | C2H3ClO
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | ethyl acetate | 80 ml | C(C)(=O)OCC | C4H8O2
product | 2-acetoxy-5-methylbenzoic acid | C(C)(=O)OC1=C(C(=O)O)C=C(C=C1)C | C10H10O4
